US08686150B2
(a) 6-Hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester
A mixture of 3-amino-5-methylpyrazole (50.0 g), diethyl oxalate sodium salt (127.3 g) and acetic acid (113 mL) in 1N aqueous hydrochloric acid (625 mL) was stirred at 80° C. for 14 h, then refluxed for 3 h, cooled to r.t., and the precipitate formed was filtered by suction filtration and dried in vacuo at 60° C. The crude product was stirred in 500 mL ethyl acetate at r.t. and the solid was filtered off and dried in air. 40.2 g (35%) of the title compound were obtained as pale yellow solid.

reactant | 3-amino-5-methylpyrazole | 50.0 g | NC1=NNC(=C1)C | C4H7N3
reactant | diethyl oxalate sodium salt | 127.3 g | [Na].C(C(=O)OCC)(=O)OCC
reactant | acetic acid | 113 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 1N, 625 mL | Cl | ClH
product | 6-Hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester | 40.2 g, 35% | C(C)OC(=O)C=1C2=C(N=C(C1)O)NN=C2C | C10H11N3O3
